* source BBCIRCUIT_SIMULATION
R_R2         N85097 0  1k TC=0,0 
R_R1         N84702 0  1k TC=0,0 
R_R4         N85320 0  1k TC=0,0 
V_V1         N84702 0  
+PULSE 0 5 {PHASE2+0.01us} 0.0001us 0.0001us {DUTY1} {PERIOD}
R_R3         N85205 0  1k TC=0,0 
V_V2         N85097 0  
+PULSE 5 0 {PHASE2} 0.0001us 0.0001us {DUTY1+0.02us} {PERIOD}
V_V4         N85320 0  
+PULSE 5 0 {PHASE4} 0.0001us 0.0001us {DUTY1+0.02us} {PERIOD}
V_V3         N85205 0  
+PULSE 0 5 {PHASE4+0.01us} 0.0001us 0.0001us {DUTY1} {PERIOD}
V_V8         N896451 0  
+PULSE 5 0 {PHASE2} 0.0001us 0.0001us {DUTY1+0.02us} {PERIOD}
V_V7         N895751 N89489  
+PULSE 0 5 {PHASE2+0.01us} 0.0001us 0.0001us {DUTY1} {PERIOD}
M_M1         N89477 N895751 N89489 N89489 IRF150
M_M2         N89489 N896451 0 0 IRF150
D_D1         N89489 N89477 D1N5818 
D_D2         0 N89489 D1N5818 
V_V9         N115476 0 {BATTERY}
V_V10         N94874 0 {SOLAR}
D_D3         N94490 N89477 D1N5818 
R_R7         N94874 N94490  5 TC=0,0 
V_V11         N95678 0 {SOLAR}
V_V12         N95684 0 {BATTERY}
R_R9         N95678 N95684  100 TC=0,0 
C_C4         0 N115476  2000u  TC=0,0 
L_L2         N109710 N103730  5m  
C_C3         N103730 N89477  2000u  TC=0,0 
C_C2         0 N103730  2000u  TC=0,0 
L_L3         N104625 N104634  80m  
Kn_K1         L_L2 L_L3     1
M_M3         N104696 N1047141 N104625 N104625 IRF150
V_V13         N1047141 N104625  
+PULSE 0 5 {PHASE4+0.01us} 0.0001us 0.0001us {DUTY1} {PERIOD}
D_D4         N104625 N104696 D1N5818 
M_M4         N104625 N1048661 0 0 IRF150
V_V14         N1048661 0  
+PULSE 5 0 {PHASE4} 0.0001us 0.0001us {DUTY1+0.02us} {PERIOD}
D_D5         0 N104625 D1N5818 
C_C15         N104634 N104696  1000u  TC=0,0 
C_C14         0 N104634  1000u  TC=0,0 
C_C16         0 N104696  1000u  TC=0,0 
R_R10         0 N104696  50 TC=0,0 
C_C22         N89489 N89477  1n  TC=0,0 
L_L4         N89489 N109710  1n  
C_C23         0 N89489  1n  TC=0,0 
L_L6         N115476 N89489  1m  
.PARAM  phase_diff=1us period=1us dead_area=0.1us phase1=0.1us phase2=0us l1=1m
+  phase3=1.1us duty1=0.8us solar=24 battery=12 duty2=5.2us phase4=0.0us
+  duty3=4us duty4=4.2us
